US05635534
2-{2-[4-(1,1,2,2-Tetrakis(ethoxycarbonyl)ethyl]phenoxy]-1-methylethyl}amino-1-(3-chlorophenyl)ethanol (Compound No. 3-22)
Following a procedure similar to that described in Example 6, but using 1 g of 2-amino-1-(3-chlorophenyl)ethanol (prepared as described in Preparation 8), 3 g of 4-[1,1,2,2-tetrakis(ethoxycarbonyl)ethyl]phenoxyacetone (prepared as described in Preparation 22), 100 ml of dry benzene, 50 ml of absolute methanol and 920 mg of sodium cyanoborohydride, and then purifying the reaction product by column chromatography through silica gel, using a 10:1 by volume mixture of ethyl acetate and hexane as the eluent, 0.4 g of the title compound was obtained having an Rf=0.35 (thin layer chromatography over silica gel, using ethyl acetate as the developing solvent).

reactant | 2-amino-1-(3-chlorophenyl)ethanol | 1 g | NCC(O)C1=CC(=CC=C1)Cl | C8H10ClNO
reactant | 4-[1,1,2,2-tetrakis(ethoxycarbonyl)ethyl]phenoxyacetone | 3 g | C(C)OC(=O)C(C(C(=O)OCC)C(=O)OCC)(C(=O)OCC)C1=CC=C(OCC(C)=O)C=C1 | C23H30O10
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
reactant | sodium cyanoborohydride | 920 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 2-{2-[4-(1,1,2,2-Tetrakis(ethoxycarbonyl)ethyl]phenoxy]-1-methylethyl}amino-1-(3-chlorophenyl)ethanol | 0.4 g | C(C)OC(=O)C(C(C(=O)OCC)C(=O)OCC)(C(=O)OCC)C1=CC=C(OCC(C)NCC(O)C2=CC(=CC=C2)Cl)C=C1 | C31H40ClNO10
